US04898874
3-Phenyl-2,1-benzisoxazole-6-acetonitrile
A mixture of 10.9 g (0.038 mole) of slightly impure 6-(bromomethyl)-3-phenyl-2,1-benzisoxazole, 9.8 g (0.15 mole) of potassium cyanide, 80 ml of dioxane, and 50 ml of water was heated at reflux under a nitrogen atmosphere for 2.5 hr. The mixture was diluted with 200 ml of methylene chloride and the layers were separated. The organic layer was washed twice with water, once with brine, and dried over sodium sulfate, and concentrated to give 7.5 g of gray solid as residue. The solid was chromatographed on 150 g of silica gel and the title compound was eluted with 1% methanol in benzene to yield 3.3 g (37%) of product, m.p. 148°-155° C.

reactant | 6-(bromomethyl)-3-phenyl-2,1-benzisoxazole | BrCC1=CC=2C(=C(ON2)C2=CC=CC=C2)C=C1 | C14H10BrNO
reactant | potassium cyanide | 0.15 mole, 9.8 g | [C-]#N.[K+]
reactant | dioxane | 80 ml | O1CCOCC1 | C4H8O2
reactant | water | 50 ml | O | H2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 3-Phenyl-2,1-benzisoxazole-6-acetonitrile | 7.5 g | C1(=CC=CC=C1)C=1ON=C2C1C=CC(=C2)CC#N | C15H10N2O
